US07763657B2
Step 1: 4-[5-tert-Butyl-2-(2-methoxycarbonylvinyl)phenoxy]piperidine-1-carboxylic acid tert-butyl ester
3-(4-tert-Butyl-2-hydroxyphenyl)acrylic acid methyl ester (24.7 mg, 0.105 mmole), 4-methanesulfonyloxypiperidine-1-carboxylic acid tert-butyl ester (58.7 mg, 0.210 mmol), potassium carbonate (43.7 mg, 0.316 mmol) was added in DMF. The reaction mixture was stirred overnight. The reaction mixture was purified according to step 1 of Example 30 to give solid (45.6 mg, 100%).

reactant | 3-(4-tert-Butyl-2-hydroxyphenyl)acrylic acid methyl ester | 0.105 mmole, 24.7 mg | COC(C=CC1=C(C=C(C=C1)C(C)(C)C)O)=O | C14H18O3
reactant | 4-methanesulfonyloxypiperidine-1-carboxylic acid tert-butyl ester | 0.210 mmol, 58.7 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C | C11H21NO5S
reactant | potassium carbonate | 0.316 mmol, 43.7 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-[5-tert-Butyl-2-(2-methoxycarbonylvinyl)phenoxy]piperidine-1-carboxylic acid tert-butyl ester | 45.6 mg, 100% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=CC(=C1)C(C)(C)C)C=CC(=O)OC | C24H35NO5
